US07175854B2
canrenoate;
canrenone; dicirenone; mexrenoate; prorenoate; spironolactone, epostane, mespirenone; oxprenoate, spirorenone, spiroxasone, prorenone, eplerenone.

reactant | canrenone | C[C@]12CCC(=O)C=C1C=C[C@@H]3[C@@H]2CC[C@]4([C@H]3CC[C@@]45CCC(=O)O5)C | C22H28O3
reactant | dicirenone | CC(C)OC(=O)[C@@H]1CC2=CC(=O)CC[C@@]2([C@@H]3[C@@H]1[C@@H]4CC[C@]5([C@]4(CC3)C)CCC(=O)O5)C | C26H36O5
reactant | mexrenoate | C[C@]12CCC(=O)C=C1C[C@H]([C@@H]3[C@@H]2CC[C@]4([C@H]3CC[C@]4(CCC(=O)O)O)C)C(=O)OC | C24H34O6
reactant | prorenoate | C[C@]12CCC(=O)C=C1[C@@H]3C[C@@H]3[C@@H]4[C@@H]2CC[C@]5([C@H]4CC[C@]5(CCC(=O)O)O)C | C23H32O4
reactant | spironolactone | CC(=O)S[C@@H]1CC2=CC(=O)CC[C@@]2([C@@H]3[C@@H]1[C@@H]4CC[C@]5([C@]4(CC3)C)CCC(=O)O5)C | C24H32O4S
reactant | epostane | C[C@]12CC[C@H]3[C@H]([C@@H]1CC[C@]2(C)O)CC[C@]45[C@@]3(CC(=C([C@]4(O5)C)O)C#N)C | C22H31NO3
reactant | mespirenone | CC(=O)S[C@@H]1CC2=CC(=O)C=C[C@@]2([C@@H]3[C@@H]1[C@@H]4[C@@H]5C[C@@H]5[C@]6([C@]4(CC3)C)CCC(=O)O6)C | C25H30O4S
reactant | oxprenoate | CCC[C@@H]1CC2=CC(=O)CC[C@@]2([C@@H]3[C@@H]1[C@@H]4CC[C@]([C@]4(CC3)C)(CCC(=O)O)O)C | C25H38O4
reactant | spirorenone | C[C@]12CC[C@H]3[C@H]([C@@H]1[C@@H]4C[C@@H]4[C@@]25CCC(=O)O5)[C@H]6C[C@H]6C7=CC(=O)C=C[C@]37C | C24H28O3
reactant | spiroxasone | CC(=O)S[C@@H]1CC2=CC(=O)CC[C@@]2([C@@H]3[C@@H]1[C@@H]4CC[C@]5([C@]4(CC3)C)CCCO5)C | C24H34O3S
reactant | prorenone | C[C@]12CCC(=O)C=C1[C@H]3C[C@H]3[C@@H]4[C@@H]2CC[C@]5([C@H]4CC[C@@]56CCC(=O)O6)C | C23H30O3
reactant | eplerenone | C[C@]12CCC(=O)C=C1C[C@H]([C@@H]3[C@]24[C@H](O4)C[C@]5([C@H]3CC[C@@]56CCC(=O)O6)C)C(=O)OC | C24H30O6
product | canrenoate | C[C@]12CCC(=O)C=C1C=C[C@@H]3[C@@H]2CC[C@]4([C@H]3CC[C@]4(CCC(=O)O)O)C | C22H30O4
